US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzofuran-2-carboxamide
1248 mg (6.03 mmol) of 5-nitrobenzofuran-2-carboxylic acid, 1000 mg (5.02 mmol) of (R)-3-aminoquinuclidine dihydrochloride, 2291 mg (6.03 mmol) of HATU, 2250 mg (18.08 mmol) of N,N-diisopropylethylamine and 15 ml of DMF are reacted according to the general procedure (variant B). DMF is removed under reduced pressure. The reaction mixture is taken up in methanol and stirred together with acidic ion exchange resin (Dowex WX2-200) for about 40 min. The loaded ion exchanger is washed six times with in each case 100 ml of methanol. It is then eluted using methanol/triethylamine 99:1 to 90:10. The solvent is removed under reduced pressure. The product is taken up in 1N aqueous sodium hydroxide solution and extracted three times with ethyl acetate. The extract is dried on magnesium sulfate. 1100 mg (69% of theory) of the title compound are isolated.

reactant | 5-nitrobenzofuran-2-carboxylic acid | 6.03 mmol, 1248 mg | [N+](=O)([O-])C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5NO5
reactant | (R)-3-aminoquinuclidine dihydrochloride | 5.02 mmol, 1000 mg | Cl.Cl.N[C@H]1CN2CCC1CC2
reactant | HATU | 6.03 mmol, 2291 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 18.08 mmol, 2250 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzofuran-2-carboxamide | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=C(C=C1)[N+](=O)[O-] | C16H17N3O4
